data/oMe_Silver.jsonl
{"reaction_id": "NR-112_1-Cl_2-SC_3-c2ccccc2_4-c2ccccc2_5-c2ccccc2","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(Cl)c(SC)c(c2ccccc2)c1c2ccccc2","C(c2ccccc2)#N"],"products_smiles": ["c1(C(=O)c2ccccc2)c(O)c(Cl)c(SC)c(c2ccccc2)c1c2ccccc2"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])c2ccccc2)C(=[OH+])c(Cl)c(SC)c(c2ccccc2)c1c2ccccc2","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])c2ccccc2)c(O)c(Cl)c(SC)c(c2ccccc2)c1c2ccccc2","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])c2ccccc2)c(O)c(Cl)c(SC)c(c2ccccc2)c1c2ccccc2","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)c2ccccc2)c(O)c(Cl)c(SC)c(c2ccccc2)c1c2ccccc2","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
{"reaction_id": "NR-218_1-c1ccccn1_2-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(c1ccccn1)C(=O)C(c1ccccn1)C(=O)OCC","O=CC(c1ccc(C(F)(F)F)cc1)","N"],"products_smiles": ["C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(Cc1ccc(C(F)(F)F)cc1))(Cc1ccc(C(F)(F)F)cc1))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N)C(c1ccc(C(F)(F)F)cc1))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N=C(Cc1ccc(C(F)(F)F)cc1))C(c1ccc(C(F)(F)F)cc1))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(Cc1ccc(C(F)(F)F)cc1))(Cc1ccc(C(F)(F)F)cc1))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
{"reaction_id": "NR-208_1-C(F)(F)F_2-C=C_3-C_4-c1ccc(N(C)C)cc1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C(F)(F)F)=C(C=C)C(C)(c1ccc(N(C)C)cc1)OC=N"],"products_smiles": ["C(=O)NC(C(F)(F)F)C(C=C)=C(C)(c1ccc(N(C)C)cc1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C(F)(F)F)C(C=C)=C(C)(c1ccc(N(C)C)cc1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
